US06927230B2
1,5-bis(4-methoxyphenyl)-3-(1,3-thiazol-4-ylmethoxy)-1H-1,2,4-triazole (132 mg, 49.7% yield) was prepared from 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol and 4-(chloromethyl)-1,3-thiazole hydrochloride by the similar manner described for Example 18.

reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | 4-(chloromethyl)-1,3-thiazole hydrochloride | Cl.ClCC=1N=CSC1
product | 1,5-bis(4-methoxyphenyl)-3-(1,3-thiazol-4-ylmethoxy)-1H-1,2,4-triazole | 132 mg, 49.7% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)OCC=1N=CSC1 | C20H18N4O3S
